US05716971
To a suspension of 5-bromo-4-chloro-2-methoxymethoxybenzyl cyanide (10.4 g), 2-bromo-3-methoxymethoxy pyridine (7.81 g) and sodium p-toluenesulfinate (12.7 g) in THF (150 ml) was added, at room temperature, sodium hydride (3.63 g). The mixture was heated for 2 hours under reflux under argon atmosphere. The reaction mixture was cooled by aeration, which was poured into ice-water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, dried (anhydrous magnesium sulfate) and concentrated. The crystal obtained was washed with cyclohexane/isopropyl ether (5:1) to give 2-(5-bromo-4-chloro-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine (10.9 g) (Compound C-15). The physical properties and spectrum data are shown in Table 9 and Table 12.

reactant | 5-bromo-4-chloro-2-methoxymethoxybenzyl cyanide | 10.4 g | BrC=1C(=CC(=C(CC#N)C1)OCOC)Cl | C10H9BrClNO2
reactant | 2-bromo-3-methoxymethoxy pyridine | 7.81 g | BrC1=NC=CC=C1OCOC | C7H8BrNO2
reactant | sodium p-toluenesulfinate | 12.7 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | sodium hydride | 3.63 g | [H-].[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-(5-bromo-4-chloro-α-cyano-2-methoxymethoxybenzyl)-3-methoxymethoxypyridine | 10.9 g | BrC=1C(=CC(=C(C(C#N)C2=NC=CC=C2OCOC)C1)OCOC)Cl | C17H16BrClN2O4
